US08202511B2
Acetic acid 2-acetoxy-1-{3-chlorocarbonyl-5-[(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-(2-hydroxy-ethyl)-carbamoyl]-2,4,6-triiodo-phenylcarbamoyl}-ethyl ester
To a ice cooled solution of acetic acid 2-acetoxy-1-(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenylcarbamoyl)-ethyl ester (20 g, 0.026 mol) in anhydrous DMAC (20 ml) were added dropwise a solution of 2-[(2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl)-amino]-ethanol (4.6 g, 0.026 mol) in DMAC (20 mL) followed by triethylamine (˜3 g). The mixture was stirred at room temperature for 24 h and then poured over icewater (0.75 litre). A white precipitate formed. This was collected and washed with cold water. The filter cake was then dissolved in ethyl acetate and washed with brine. The organics were collected, dried over MgSO4, filtered and evaporated to dryness. The product was purified by silica column chromatography eluting with Petroleum ether/ethyl acetate. Two peaks closely eluting at 80% ethyl acetate were analysed by NMR and mass spec, and show to both contain the desired material. These were combined post analysis to give the desired product (10 mmol, Yield=38%). The structure was confirmed by Mass Spec (ESI) m/z: Calculated for C23H26Cl I3N2O10 [M+H]+906.64. Found 906.93. 1H NMR (CDCl3; 300 MHz) δ=1.33 (2s, 3H) 1.45 (2s, 3H) 2.02 (s, 3H) 2.26 (s, 3H) 3-3.5 (m, 4H) 3.5-3.9 (m, 3H) 3.9-4.3 (m, 2H) 4.5 (m, 1H) 4.6-4.8 (m, 2H) 5.62 (NH singlet, 1H)

reactant | acetic acid 2-acetoxy-1-(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenylcarbamoyl)-ethyl ester | 0.026 mol, 20 g | C(C)(=O)OCC(C(NC1=C(C(=C(C(=C1I)C(=O)Cl)I)C(=O)Cl)I)=O)OC(C)=O | C15H10Cl2I3NO7
reactant | 2-[(2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl)-amino]-ethanol | 0.026 mol, 4.6 g | CC1(OCC(O1)CNCCO)C | C8H17NO3
reactant | triethylamine | ˜3 g | C(C)N(CC)CC | C6H15N
solvent | DMAC | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | DMAC | 20 mL | CC(=O)N(C)C | C4H9NO
product | Acetic acid 2-acetoxy-1-{3-chlorocarbonyl-5-[(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-(2-hydroxy-ethyl)-carbamoyl]-2,4,6-triiodo-phenylcarbamoyl}-ethyl ester | 10 mmol, Yield=38% | C(C)(=O)OCC(C(NC1=C(C(=C(C(=C1I)C(N(CCO)CC1OC(OC1)(C)C)=O)I)C(=O)Cl)I)=O)OC(C)=O | C23H26ClI3N2O10
